US08912176B2
Preparation of methyl 4-[(2-hydroxy-1,1-dimethylethyl)carbamoyl]benzoate
To a suspension of mono-methylterephtalate (360 mg, 2.0 mmol) in dichloromethane (10 mL) under N2 was added 1,1′-carbonyldiimidazole (422 mg, 2.6 mmol) in one portion. The mixture was stirred at RT for 18 h. 2-Amino-2-methyl-1-propanol (232 mg, 2.6 mmol) was added as a solution in dichloromethane (1 mL) and stirring was continued for another 3 h. The reaction was quenched by pouring onto saturated aqueous NaHCO3 (50 mL). After extraction with dichloromethane (3×50 mL), the combined organic extracts were washed with brine (50 mL), dried (MgSO4), filtered and concentrated at reduced pressure. Purification by silica FCC (using a gradient of eluents; 7:3 to 1:1 heptane:EtOAc) gave the title compound (100 mg, 20% yield) as white solid.

reactant | mono-methylterephtalate | 2.0 mmol, 360 mg | COC(C1=CC=C(C(=O)[O-])C=C1)=O
reactant | 1,1′-carbonyldiimidazole | 2.6 mmol, 422 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-Amino-2-methyl-1-propanol | 2.6 mmol, 232 mg | NC(CO)(C)C | C4H11NO
reactant | heptane | CCCCCCC | C7H16
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 4-[(2-hydroxy-1,1-dimethylethyl)carbamoyl]benzoate | 100 mg, 20% yield | OCC(C)(C)NC(=O)C1=CC=C(C(=O)OC)C=C1 | C13H17NO4
